US04990510
2,3-dimethyl-9-bromo-6H-indolo(2,3-b)quinoxaline
A mixture of 22.6 g 5-bromoisatin (0.1 mole), 15.0 g 4,5-dimethyl-o-phenylene diamine (0.11 mole) and 400 ml acetic acid is boiled under reflux for 4 hours. After cooling the product is sucked, washed with ethanol and dried. Yield 29 g, 89%. Recrystallisation from pyridine gives needle shaped crystals with melting point 319°-322° C.

reactant | 5-bromoisatin | 0.1 mole, 22.6 g | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 4,5-dimethyl-o-phenylene diamine | 0.11 mole, 15.0 g | CC1=CC(=C(C=C1C)N)N | C8H12N2
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 2,3-dimethyl-9-bromo-6H-indolo(2,3-b)quinoxaline | CC=1C=C2N=C3C(=NC2=CC1C)NC=1C=CC(=CC13)Br | C16H12BrN3
